US09302980B2
Production of (S)-2-methylproline
Methanesulfonic acid (252 mg, 2.6 mmol) was added to a solution of (S)—N-(tert-butoxycarbonyl)-2-methylproline (500 mg, 2.2 mmol) and 1,2-dichloroethane (2.53 g), and the mixture was stirred at 25° C. for 3 hours. When triethylamine (265 mg, 2.6 mmol) was added thereto, a solid was precipitated. The solid was sufficiently precipitated, and then the solution was stirred at 25° C. for 30 minutes and further stirred at 25° C. for 2 hours. Thereafter, the solid was then separated by filtration under reduced pressure. The solid was washed with 1,2-dichloroethane (0.2 mL), and then was subjected to vacuum drying. Thereby, the titled compound was produced as a white solid (197 mg, yield of 69%).

reactant | Methanesulfonic acid | 2.6 mmol, 252 mg | CS(=O)(=O)O | CH4O3S
reactant | (S)—N-(tert-butoxycarbonyl)-2-methylproline | 2.2 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@](C(=O)O)(CCC1)C | C11H19NO4
reactant | triethylamine | 2.6 mmol, 265 mg | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 2.53 g | ClCCCl | C2H4Cl2
product | (S)-2-methylproline | C[C@@]1(NCCC1)C(=O)O | C6H11NO2
